US07465731B2
2M ethanolic hydrogen chloride (2.0 mL) was added to the solution of (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (0.5 g) in EtOH (5 ml) and the mixture was stirred at ambient temperature for 3 hrs. To the reaction mixture was added AcOEt and isolated precipitate was collected by filtration to give (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoro-N-hydroxyacrylamide dihydrochloride (0.28 g),

reactant | hydrogen chloride | 2M, 2.0 mL | Cl | ClH
reactant | (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoro-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 0.5 g | ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)NOC1OCCCC1)/F | C25H36ClFN4O3
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 ml | CCO | C2H6O
product | (2Z)-3-(5-chloro-6-{[(3R)-1-(cyclohexylmethyl)-3-piperidinyl]amino}-3-pyridinyl)-2-fluoro-N-hydroxyacrylamide dihydrochloride | 0.28 g | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CN(CCC1)CC1CCCCC1)\C=C(\C(=O)NO)/F | InChI=1S/C20H28ClFN4O2.2ClH/c21-17-9-15(10-18(22)20(27)25-28)11-23-19(17)24-16-7-4-8-26(13-16)12-14-5-2-1-3-6-14;;/h9-11,14,16,28H,1-8,12-13H2,(H,23,24)(H,25,27);2*1H/b18-10-;;/t16-;;/m1../s1
